US06809097B1
A mixture of 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride (220 mg 0.84 mmol), (prepared as described for the starting material in Example 1), and 3-hydroxy-4-methylaniline (123 mg, 1 mmol) in isopropanol (10 ml) was heated at reflux for 1 hour. The mixture was allowed to cool, the solid product was collected by filtration, washed with acetone and dried to give 6-cyano-4-(3-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)quinoline hydrochloride (210 mg, 60%) as an orange solid.

reactant | 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride | 0.84 mmol, 220 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC
reactant | 3-hydroxy-4-methylaniline | 1 mmol, 123 mg | OC=1C=C(N)C=CC1C | C7H9NO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 6-cyano-4-(3-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)quinoline hydrochloride | 210 mg, 60% | Cl.C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)NC1=CC(=C(C=C1)C)O | InChI=1S/C20H19N3O3.ClH/c1-13-3-4-15(10-19(13)24)23-17-5-6-22-18-11-20(26-8-7-25-2)14(12-21)9-16(17)18;/h3-6,9-11,24H,7-8H2,1-2H3,(H,22,23);1H
